US09359375B2
A mixture of (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-cyclopropylpropanamide (150 mg, 0.460 mmol), 5-amino-3-phenylisoxazole (100 mg, 0.625 mmol), sodium phenoxide trihydrate (100 mg, 0.588 mmol), xantphos (60 mg, 0.103 mmol) and Pd2 dba3 (40 mg, 0.043 mmol) in dioxane (3 mL) was degassed with Ar, then was stirred at 120 C for 18 h. HOAc (0.5 mL) was added. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(4-cyano-2-fluoro-5-(3-phenylisoxazol-5-ylamino)phenylamino)-3-cyclopropylpropanamide (75 mg).

reactant | (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-cyclopropylpropanamide | 0.460 mmol, 150 mg | BrC=1C(=CC(=C(C1)N[C@@H](C(=O)N)CC1CC1)F)C#N | C13H13BrFN3O
reactant | 5-amino-3-phenylisoxazole | 0.625 mmol, 100 mg | NC1=CC(=NO1)C1=CC=CC=C1 | C9H8N2O
reactant | sodium phenoxide trihydrate | 0.588 mmol, 100 mg | O.O.O.[O-]C1=CC=CC=C1.[Na+]
reactant | xantphos | 0.103 mmol, 60 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.043 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-2-(4-cyano-2-fluoro-5-(3-phenylisoxazol-5-ylamino)phenylamino)-3-cyclopropylpropanamide | 75 mg | C(#N)C1=CC(=C(C=C1NC1=CC(=NO1)C1=CC=CC=C1)N[C@@H](C(=O)N)CC1CC1)F | C22H20FN5O2
